US03971819
B. 3amino-4-anilino-5-sulphamyl-benzoic acid
A suspension of 4-anilino-3-nitro-5-sulphamyl-benzoic acid (7 g) in water (80 ml) was adjusted to a pH of 9 by the addition of 2N sodium hydroxide or lithium hydroxide, and the resulting solution was hydrogenated at room temperature and 1.1 atmospheres hydrogen pressure after the addition of a palladium-on-carbon catalyst (0.3 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the 3-amino-4-anilino-5-sulphamyl-benzoic acid was precipitated from the filtrate by addition of 4N hydrochloric acid until the pH was 2.5. After recrystallization from aqueous ethanol and drying in vacuo, the melting point was 251°C.

reactant | 4-anilino-3-nitro-5-sulphamyl-benzoic acid | 7 g | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C13H11N3O6S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrogen | [H][H] | H2
solvent | water | 80 ml | O | H2O
catalyst | palladium-on-carbon | 0.3 g | [Pd] | Pd
product | 3amino-4-anilino-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
